US07893099B2
Step 4: (1R,2R,4R)-2-(3,3-Difluoro-azetidine-1-carbonyl)-4-(4-fluoro-2-trifluoromethyl-benzenesulfonyl)-cyclopentanecarboxylic acid (1-cyano-cyclopropyl)-amide
The title compound was prepared in analogy to Example 117, step 7, using (1R,2R,4S)-2-(3,3-Difluoro-azetidine-1-carbonyl)-4-(4-fluoro-2-trifluoromethyl-benzenesulfonyl)-cyclopentanecarboxylic acid and 1-amino-cyclopropyl cyanic hydrochloride. White solid. MS (EI): 524.1 (M+H)+.

reactant | (1R,2R,4S)-2-(3,3-Difluoro-azetidine-1-carbonyl)-4-(4-fluoro-2-trifluoromethyl-benzenesulfonyl)-cyclopentanecarboxylic acid | FC1(CN(C1)C(=O)[C@H]1[C@@H](C[C@H](C1)S(=O)(=O)C1=C(C=C(C=C1)F)C(F)(F)F)C(=O)O)F | C17H15F6NO5S
reactant | 1-amino-cyclopropyl cyanic hydrochloride | C1CC1(C#N)N.Cl
product | (1R,2R,4R)-2-(3,3-Difluoro-azetidine-1-carbonyl)-4-(4-fluoro-2-trifluoromethyl-benzenesulfonyl)-cyclopentanecarboxylic acid (1-cyano-cyclopropyl)-amide | C(#N)C1(CC1)NC(=O)[C@H]1[C@@H](C[C@@H](C1)S(=O)(=O)C1=C(C=C(C=C1)F)C(F)(F)F)C(=O)N1CC(C1)(F)F | C21H19F6N3O4S
